* Z:\celera\projects\Simplis\playcalum\Puget\Puget0\301E\verification\sim_THERMALshutdown.sxsch
*#SIMETRIX
X$CV 12 celera vars: simulation_module='name' status='dev' simulation='typical'

.node_map SIMPV 24
.node_map thermal_shutdown 28
.node_map REF 25
.node_map clock 27
.node_map fault_charger 30
.node_map enable 26
.node_map GND 29
.options
+ PSP_NPT=50001
+ POP_ITRMAX=20
+ POP_OUTPUT_CYCLES=5
+ SNAPSHOT_INTVL=0
+ SNAPSHOT_NPT=11
+ MIN_AVG_TOPOLOGY_DUR=1a
+ AVG_TOPOLOGY_DUR_MEASUREMENT_WINDOW=128
.tran 300u 0

.globalvar TEMP=25
.globalvar VIN = 5.0
.globalvar REF = 1.2
.globalvar tdext_khz=10
.globalvar CAP1=3.2
.globalvar CAP2=3.3
.globalvar CAP3=3.4
.globalvar CAP4=3.5

.PRINT V(#enable)
.GRAPH :#enable curveLabel= enable nowarn=true ylog=auto xlog=auto analysis=tran|pop disabled=false PROBEREF=Probe1  
.PRINT V(#thermal_shutdown)
.GRAPH :#thermal_shutdown curveLabel= thermal_shutdown nowarn=true ylog=auto xlog=auto analysis=tran|pop disabled=false PROBEREF=Probe3  
X$THERMAL 24 25 26 28 THERMALshutdownPUGET
X$U1 26 22 dbuf vars: logicgate_type='dbuf' logicgate_vmax=6
X$U2 30 23 dbuf vars: logicgate_type='dbuf' logicgate_vmax=6
X$U35 27 21 dbuf vars: logicgate_type='dbuf' logicgate_vmax=6
X$V1 21 0 PUL_SOURCE vars: _V1=0 _V2=1 _FREQ=1Meg _DELAY=11u _DRATIOx100=50 _T_RISE=1n _T_FALL=1n _DAMP_COEF=0 _PWIDTH=499n _OFF_UNTIL_DELAY=1 _IDLE_IN_POP=0 _USEPHASE=0 _PHASE=11u
V15 22 0 PWL NSEG=4 X0=0 Y0=0 X1=50u Y1=0 X2=50.001u Y2={VIN} X3=250u Y3={VIN} X4=250.001u Y4=0 
V2 23 0 PWL NSEG=2 X0=0 Y0=0 X1=100u Y1=0 X2=100.001u Y2={VIN} 
V3 25 0 PWL NSEG=2 X0=0 Y0=0 X1=1u Y1=0 X2=2u Y2={REF} 
V4 24 0 PWL NSEG=2 X0=0 Y0=0 X1=1u Y1=0 X2=2u Y2={VIN} 
V5 29 0 PWL NSEG=2 X0=0 Y0=0 X1=10u Y1=0 X2=20u Y2=0 
** From Z:\celera\projects\Simplis\playcalum\Puget\Puget0\301E\design\THERMALshutdownPUGET.sxcmp
.subckt THERMALshutdownPUGET 47 48 49 50
*#hierarchy
.node_map enable_thermalshutdown 49
.node_map SIMPV 47
.node_map ok_comparator 56
.node_map high 59
.node_map thermal_shutdown 50
.node_map ok_thermometer 54
.node_map REFIN 52
.node_map REFBUF 60
.node_map TSD 53
.node_map ok_thermalshutdown 57
.node_map ok_buffer 58
.node_map enable 55
.node_map hijack_enable_thermalshutdown 51
.node_map REF_THERMALSHUTDOWN 48
X$comparator1 56 47 55 59 53 44 60 45 46 43 comparatornoctlpins vars: comparator_model='comparator' comparator_hysteresismode='fixed' comparator_edge='rising' comparator_speed='slow' comparator_type='p' comparator_deglitch='yes' comparator_lowiq='no' comparator_datasheet_name='text' comparator_datasheet_description='text' bgcomp_accuracy='no' bgcomp_outputanalog='supply' bgcomp_note1='Usage' bgcomp_outputdigital='no' bgcomp_trim_name='text' bgcomp_trim_description='text' bgcomp_enable='yes' comparator_dft='no' comparatorsupply_reference='ground' comparatorsupply_threshold='50' comparatorsupply_edge='falling' comparatorsupply_output='analog' comparatorsupply_enable='analog' comparator_hysteresis=50 comparator_lowiqpor=0 bgcomp_threshold=1.2 bgcomp_maxcelpos=6 bgcomp_maxvin=6 comparator_vmax=6
X$DEBUG 49 51 52 53 59 57 50 STONEthermalshutdownDEBUG
X$pinprobe1 47 pinprobe vars: pinprobe_description='Low_voltage_input_supply' pinprobe_mode='input' pinprobe_input='pad' pinprobe_output='tbd' pinprobe_bits=1
X$pinprobe12 50 pinprobe vars: pinprobe_description='Thermal_shutdown_flag' pinprobe_mode='tbd' pinprobe_input='tbd' pinprobe_output='tbd' pinprobe_bits=1
X$pinprobe2 48 pinprobe vars: pinprobe_description='Thermal_shutdown_reference' pinprobe_mode='input' pinprobe_input='pad' pinprobe_output='tbd' pinprobe_bits=1
X$pinprobe3 49 pinprobe vars: pinprobe_description='Enable_Thermal_shutdown' pinprobe_mode='input' pinprobe_input='tbd' pinprobe_output='tbd' pinprobe_bits=1
X$THERMAL 50 48 52 51 55 54 56 58 59 57 STONEthermalshutdown
X$thermometer1 47 55 53 54 thermometer vars: thermometer_enable='pin' thermometer_enable_por='1' thermometer_datasheet_name='text' thermometer_datasheet_description='text' thermometer_output_buffer='no' thermometer_accuracy='yes' thermometer_trim_name='THERMALshutdown' thermometer_trim_description='Thermal_shutdown_at_165C' thermometer_verification='no' thermometer_enabletimeunits1='us' thermometer_enabletimeunits2='us' thermometer_enabletimeunits3='us' thermometer_enabletimeunits4='us' thermometer_dft='no' thermometer_thermalshutdown='yes' thermometer_25C_outputvoltage=350 thermometer_ptatgain=2.5 thermometer_note0=0 thermometer_timeenablecodes=3 thermometer_starttemp=25 thermometer_newtemp1=100 thermometer_enabletime1=50 thermometer_newtemp2=170 thermometer_enabletime2=140 thermometer_newtemp3=130 thermometer_enabletime3=200 thermometer_newtemp4=1 thermometer_enabletime4=1 thermometer_VINmin=5 thermometer_vmax=6 thermometer_note1=0 thermometer_note2=0
X$U1 41 brick vars: ibias=0 drm=0 dft=0 global=0 brick=0 revision=0 description='THERMALshutdown' description1='Rise_165C_Fall_145' description2='Buffer_0p56' description3='Comparator_hyst_50mV' description4='Thermometer_offset_350mV' description5='Thermometer_gain_2mVC' description6='Reference_1200mV' description7='Debug_Yes' description8='Accuracy_yes' description9='text' description10='text'
X$vbuffer1 47 58 52 60 55 42 vbuffer vars: vbuffer_accuracy='no' vbuffer_datasheet_name='text' vbuffer_datasheet_description='text' vbuffer_type='p' vbuffer_inputbuffer='no' vbuffer_drive='internal' vbuffer_gndsense='no' vbuffer_dft='no' vbuffer_gain=580m vbuffer_feedbackimpedance=1000 vbuffer_vmax=6
.ends THERMALshutdownPUGET

** From Z:\celera\projects\Simplis\playcalum\Puget\Puget0\301E\design\STONEthermalshutdownDEBUG.sxcmp
.subckt STONEthermalshutdownDEBUG 18 19 20 21 22 23 24
*#hierarchy
.node_map enable_thermalshutdown 18
.node_map thermal_shutdown 24
.node_map high 22
.node_map REFIN 20
.node_map TSD 21
.node_map ok_thermalshutdown 23
.node_map hijack_enable_thermalshutdown 19
X$dfthijack1 18 19 dfthijack vars: dfthijack_name='THERMALshutdownENABLE' dfthijack_description='Enable_thermal_shutdown' dfthijack_enable='bypass' dfthijack_enabletimeunits1='us' dfthijack_enabletimeunits2='us' dfthijack_enabletimeunits3='us' dfthijack_enabletimeunits4='us' dfthijack_enabletimeunits5='us' dfthijack_enabletimeunits6='us' dfthijack_enabletimeunits7='us' dfthijack_enabletimeunits8='us' dfthijack_state='logic' dfthijack_output='0' dfthijack_timeenablecodes=1 dfthijack_startcode=0 dfthijack_newcode1=1 dfthijack_enabletime1=1 dfthijack_newcode2=1 dfthijack_enabletime2=1 dfthijack_newcode3=1 dfthijack_enabletime3=1 dfthijack_newcode4=1 dfthijack_enabletime4=1 dfthijack_newcode5=1 dfthijack_enabletime5=1 dfthijack_newcode6=1 dfthijack_enabletime6=1 dfthijack_newcode7=1 dfthijack_enabletime7=1 dfthijack_newcode8=1 dfthijack_enabletime8=1 dfthijack_vmax=6 dfthijack_comment=1
X$U1 16 brick vars: ibias=0 drm=0 dft=0 global=0 brick=0 revision=0 description='THERMAL_Shutdown' description1='Measure_startup_time' description2='Measure_Temperature_sensor' description3='Measure_reference_threshold' description4='Measure_Trip_comparator_output' description5='Measure_output_latched_flag' description6='Blank_Thermal_flag' description7='text' description8='text' description9='text' description10='text'
X$U7 19 23 17 VESPAdftpulse
X$UTHERMALSHUTDOWNflag1 24 dftprobeModel0 vars: dftprobe_mode='digital' digitalinfo='Only_Use_For_Digital' analoginfo='Only_use_for_Analog' dftprobe_note='Probe_Analog_Signal_less_than_VIN_and_when_disabled_is_rated_to_StandOff_Voltage' dftprobe_name='THERMALSHUTDOWNflag' dftprobe_description='Measure_Thermal_fault_flag' dftprobe_highvoltage=6 dftprobe_enable=0 dftprobe_vmax=6
X$UTHERMALSHUTDOWNhigh 22 dftprobeModel0 vars: dftprobe_mode='digital' digitalinfo='Only_Use_For_Digital' analoginfo='Only_use_for_Analog' dftprobe_note='Probe_Analog_Signal_less_than_VIN_and_when_disabled_is_rated_to_StandOff_Voltage' dftprobe_name='THERMALSHUTDOWNhigh' dftprobe_description='Measure_Thermal_comparator_output' dftprobe_highvoltage=6 dftprobe_enable=0 dftprobe_vmax=6
X$UTHERMALSHUTDOWNreference 20 dftprobeModel2 vars: dftprobe_mode='analog' digitalinfo='Only_Use_For_Digital' analoginfo='Only_use_for_Analog' dftprobe_note='Probe_Analog_Signal_less_than_VIN_and_when_disabled_is_rated_to_StandOff_Voltage' dftprobe_name='THERMALSHUTDOWNreference' dftprobe_description='Measure_Thermal_reference' dftprobe_highvoltage=6 dftprobe_enable=0 dftprobe_vmax=6
X$UTHERMALSHUTDOWNstartup 17 dftprobeModel0 vars: dftprobe_mode='digital' digitalinfo='Only_Use_For_Digital' analoginfo='Only_use_for_Analog' dftprobe_note='Probe_Analog_Signal_less_than_VIN_and_when_disabled_is_rated_to_StandOff_Voltage' dftprobe_name='THERMALSHUTDOWNstartup' dftprobe_description='Measure_Thermal_shutdown_startup_time' dftprobe_highvoltage=6 dftprobe_enable=0 dftprobe_vmax=6
X$UTHERMALSHUTDOWNtemperature 21 dftprobeModel2 vars: dftprobe_mode='analog' digitalinfo='Only_Use_For_Digital' analoginfo='Only_use_for_Analog' dftprobe_note='Probe_Analog_Signal_less_than_VIN_and_when_disabled_is_rated_to_StandOff_Voltage' dftprobe_name='THERMALSHUTDOWNtemperature' dftprobe_description='Measure_Temperature_sensor' dftprobe_highvoltage=6 dftprobe_enable=0 dftprobe_vmax=6
.ends STONEthermalshutdownDEBUG

** From Z:\celera\simplis\LIB\VESPA\VESPAdftpulse.sxcmp
.subckt VESPAdftpulse 7 8 9
*#hierarchy
.node_map start 7
.node_map stop 8
.node_map pulse 9
X$U11 7 pinprobe vars: pinprobe_description='DFT_timer_start_input'
X$U15 8 6 inv vars: logicgate_type='inv' logicgate_vmax=6
X$U17 8 pinprobe vars: pinprobe_description='DFT_timer_stop_input'
X$U52 7 4 6 nand2 vars: logicgate_type='nand2' logicgate_vmax=6
X$U53 4 5 inv vars: logicgate_type='inv' logicgate_vmax=6
X$U55 9 5 dbuf vars: logicgate_type='dbuf' logicgate_vmax=6
X$U8 9 pinprobe vars: pinprobe_description='DFT_Timer_pulse'
.ends VESPAdftpulse

** From Z:\celera\projects\Simplis\playcalum\Puget\Puget0\301E\design\STONEthermalshutdown.sxcmp
.subckt STONEthermalshutdown 53 54 55 56 57 58 60 61 62 59
*#hierarchy
.node_map enable_thermalshutdown 56
.node_map setDEGLITCH 74
.node_map ok_comparator 60
.node_map high 62
.node_map thermal_shutdown 53
.node_map thermalDELAY 69
.node_map ok_thermometer 58
.node_map thermalBAR 65
.node_map thermalBARdelay 63
.node_map REFIN 55
.node_map ok_thermalshutdown 59
.node_map thermal 68
.node_map set 66
.node_map slow 67
.node_map ok_buffer 61
.node_map highBAR 71
.node_map okDELAY 73
.node_map enable 57
.node_map ok 72
.node_map ck 70
.node_map REF_THERMALSHUTDOWN 54
.node_map shigh 64
X$delay1 66 74 delayfixed vars: delay_type='fixed' delay_units='ns' delay_accuracy='no' delay_accuracy_name='text' delay_accuracy_description='text' delay_edge='rise' delay_dft='no' delaycontrol_type='register' delaycontrol_name='text' delaycontrol_description='text' delaycontrol_units0='ns' delaycontrol_units1='ns' delaycontrol_units2='ns' delaycontrol_units3='ns' delaycontrol_units4='ns' delaycontrol_units5='ns' delaycontrol_units6='ns' delaycontrol_units7='ns' delayclock_control='pin' delayclock_datasheetname='text' delayclock_datasheetdescription='text' delayclock_accuracy='no' delayclock_accuracyname='text' delayclock_accuracydescription='text' delay_time=10 delay_0=0 delay_vmax=6 delaycontrol_outputs=2 delaycontrol_por=0 delaycontrol_time0=5 delaycontrol_time1=10 delaycontrol_time2=25 delaycontrol_time3=50 delaycontrol_time4=100 delaycontrol_time5=250 delaycontrol_time6=500 delaycontrol_time7=999 delayclock_options=2 delayclock_por=0 delayclock_count0=2 delayclock_count1=4 delayclock_count2=8 delayclock_count3=16 delayclock_0=0 delayclock_freq=1k
X$delay2 72 73 delayfixed vars: delay_type='fixed' delay_units='us' delay_accuracy='no' delay_accuracy_name='text' delay_accuracy_description='text' delay_edge='rise' delay_dft='no' delaycontrol_type='register' delaycontrol_name='text' delaycontrol_description='text' delaycontrol_units0='ns' delaycontrol_units1='ns' delaycontrol_units2='ns' delaycontrol_units3='ns' delaycontrol_units4='ns' delaycontrol_units5='ns' delaycontrol_units6='ns' delaycontrol_units7='ns' delayclock_control='pin' delayclock_datasheetname='text' delayclock_datasheetdescription='text' delayclock_accuracy='no' delayclock_accuracyname='text' delayclock_accuracydescription='text' delay_time=10 delay_0=0 delay_vmax=6 delaycontrol_outputs=2 delaycontrol_por=0 delaycontrol_time0=5 delaycontrol_time1=10 delaycontrol_time2=25 delaycontrol_time3=50 delaycontrol_time4=100 delaycontrol_time5=250 delaycontrol_time6=500 delaycontrol_time7=999 delayclock_options=2 delayclock_por=0 delayclock_count0=2 delayclock_count1=4 delayclock_count2=8 delayclock_count3=16 delayclock_0=0 delayclock_freq=1k
X$delay3 65 63 delayfixed vars: delay_type='fixed' delay_units='ns' delay_accuracy='no' delay_accuracy_name='text' delay_accuracy_description='text' delay_edge='fall' delay_dft='no' delaycontrol_type='register' delaycontrol_name='text' delaycontrol_description='text' delaycontrol_units0='ns' delaycontrol_units1='ns' delaycontrol_units2='ns' delaycontrol_units3='ns' delaycontrol_units4='ns' delaycontrol_units5='ns' delaycontrol_units6='ns' delaycontrol_units7='ns' delayclock_control='pin' delayclock_datasheetname='text' delayclock_datasheetdescription='text' delayclock_accuracy='no' delayclock_accuracyname='text' delayclock_accuracydescription='text' delay_time=50 delay_0=0 delay_vmax=6 delaycontrol_outputs=2 delaycontrol_por=0 delaycontrol_time0=5 delaycontrol_time1=10 delaycontrol_time2=25 delaycontrol_time3=50 delaycontrol_time4=100 delaycontrol_time5=250 delaycontrol_time6=500 delaycontrol_time7=999 delayclock_options=2 delayclock_por=0 delayclock_count0=2 delayclock_count1=4 delayclock_count2=8 delayclock_count3=16 delayclock_0=0 delayclock_freq=1k
X$delay4 68 69 delayfixed vars: delay_type='fixed' delay_units='ns' delay_accuracy='no' delay_accuracy_name='text' delay_accuracy_description='text' delay_edge='fall' delay_dft='no' delaycontrol_type='register' delaycontrol_name='text' delaycontrol_description='text' delaycontrol_units0='ns' delaycontrol_units1='ns' delaycontrol_units2='ns' delaycontrol_units3='ns' delaycontrol_units4='ns' delaycontrol_units5='ns' delaycontrol_units6='ns' delaycontrol_units7='ns' delayclock_control='pin' delayclock_datasheetname='text' delayclock_datasheetdescription='text' delayclock_accuracy='no' delayclock_accuracyname='text' delayclock_accuracydescription='text' delay_time=50 delay_0=0 delay_vmax=6 delaycontrol_outputs=2 delaycontrol_por=0 delaycontrol_time0=5 delaycontrol_time1=10 delaycontrol_time2=25 delaycontrol_time3=50 delaycontrol_time4=100 delaycontrol_time5=250 delaycontrol_time6=500 delaycontrol_time7=999 delayclock_options=2 delayclock_por=0 delayclock_count0=2 delayclock_count1=4 delayclock_count2=8 delayclock_count3=16 delayclock_0=0 delayclock_freq=1k
X$dff1 65 70 68 65 57 dff vars: dff_edge='rise' dff_outputs='both' dff_bits=1 dff_vmax=6
X$switch1 54 55 57 switchgnd vars: switch_type='gnd' switch_polarity='noninvert' switch_model='celera' switch_ron=1K switch_pulldownvmax=6 switch_vmax=6
X$U1 57 56 dbuf vars: logicgate_type='dbuf' logicgate_vmax=6
X$U12 62 64 63 VESPAasmINPUT1
X$U13 71 67 69 VESPAasmINPUT1
X$U15 64 52 67 nor2 vars: logicgate_type='nor2' logicgate_vmax=6
X$U16 52 66 inv vars: logicgate_type='inv' logicgate_vmax=6
X$U2 58 60 72 61 57 VESPAasmINPUT3
X$U3 73 70 74 VESPAasmINPUT1
X$U4 62 71 inv vars: logicgate_type='inv' logicgate_vmax=6
X$U5 53 68 dbuf vars: logicgate_type='dbuf' logicgate_vmax=6
X$U6 59 73 dbuf vars: logicgate_type='dbuf' logicgate_vmax=6
.ends STONEthermalshutdown

** From Z:\celera\simplis\LIB\VESPA\VESPAasmINPUT3.sxcmp
.subckt VESPAasmINPUT3 9 10 11 12 13
*#hierarchy
.node_map Tstate 13
.node_map i0 9
.node_map i1 10
.node_map i2 12
.node_map o 11
X$U1 13 pinprobe vars: pinprobe_description='state_blank_time'
X$U19 11 7 dbuf vars: logicgate_type='dbuf' logicgate_vmax=6
X$U2 10 pinprobe vars: pinprobe_description='input1'
X$U3 11 pinprobe vars: pinprobe_description='INPUT2_output'
X$U4 9 12 6 10 nand3 vars: logicgate_type='nand3' logicgate_vmax=6
X$U5 13 8 inv vars: logicgate_type='inv' logicgate_vmax=6
X$U6 6 7 8 nor2 vars: logicgate_type='nor2' logicgate_vmax=6
X$U7 9 pinprobe vars: pinprobe_description='input0'
X$U8 12 pinprobe vars: pinprobe_description='input2'
.ends VESPAasmINPUT3

** From Z:\celera\simplis\LIB\VESPA\VESPAasmINPUT1.sxcmp
.subckt VESPAasmINPUT1 5 6 7
*#hierarchy
.node_map Tstate 5
.node_map i0 7
.node_map o 6
X$U1 5 pinprobe vars: pinprobe_description='state_blank_time'
X$U2 7 pinprobe vars: pinprobe_description='input1'
X$U3 6 pinprobe vars: pinprobe_description='INPUT1_output'
X$U4 5 4 7 nand2 vars: logicgate_type='nand2' logicgate_vmax=6
X$U5 4 6 inv vars: logicgate_type='inv' logicgate_vmax=6
.ends VESPAasmINPUT1

.end
